US08871796B2
A solution of n-butyllithium in hexanes (2.50 M, 1.3 mL, 3.2 mmol, 1.5 equiv) was added to a solution of -(3-bromophenyl)-1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazole (1.32 g, 3.21 mmol, 1.5 equiv) in tetrahydrofuran (18 mL) at −78° C. The reaction mixture was stirred at −78° C. for 20 minutes, and then a solution of 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide (375 mg, 2.14 mmol, 1 equiv) in tetrahydrofuran (2 mL) was added via syringe. The reaction mixture was stirred at −78° C. for 5 minutes, then the cooling bath was removed. After stirring for an additional 15 minutes, saturated aqueous ammonium chloride solution was added, and the crude product was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (10% ethyl acetate-hexanes, grading to 100% ethyl acetate, then flushing with 10% methanol-dichloromethane) to afford N-[3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]-2-methylpropane-2-sulfinamide (894 mg, 82%). Calc'd (M+1)+: 508.2. Found: 507.9.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-bromophenyl)-1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazole | 3.21 mmol, 1.32 g, 1.5 equiv | BrC=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=C1)C(F)(F)F)CC | C18H14BrF3N2O
reactant | 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide | 2.14 mmol, 375 mg, 1 equiv | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]-2-methylpropane-2-sulfinamide | 894 mg, 82% | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)NS(=O)C(C)(C)C | C25H28F3N3O3S
